US05859007
2-[7,8-Difluoro-3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a solution of 5.0 mL trifluoroacetic acid under nitrogen is added 0.500 g of 2-[7,8-difluoro-3-(1-tertbutoxycarbonyl-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide, prepared as in Intermediate 67, (0.697 mmol). After stirring for 1.5 hrs., the trifluoroacetic acid is removed in vacuo and the residue is partitioned between methylene chloride and aqueous sodium hydroxide (1N) and transferred to a separatory funnel. The layers were separated and the organic layer is back-extracted with methylene chloride. The organic layers were combined, dried over anhydrous sodium sulfate, filtered, evaporated in vacuo to a residue and then triturated with hexane. Hexane is removed in vacuo and the remaining solid is dried under high vacuum to provide 430 mg of the title compound as an off-white solid: 1H NMR (300 MHz, CDCl3) δ7.93 (d, 1H, J=8.2), 7.51 (m, 2H), 7.41 (m, 2H), 7.29 (m, 7H), 7.15 (m, 1H), 7.00 (m, 2H), 6.82 (m, 1H), 5.01 (m, 1H), 4.36 (m, 1H), 4.32 (d, 1H, J=17.1), 4.19 (d, 1H, J=16.7), 3.88 (s, 3H), 3.87 (m, 1H), 3.74 (dd, 1H, J=6.0, 16.1), 1.10 (d, 6H, J=6.8); low resolution MS (FAB)m/e 624 (MH+).

reactant | trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-[7,8-difluoro-3-(1-tertbutoxycarbonyl-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 0.500 g | FC1=CC2=C(N(C(C(C(N2C2=CC=CC=C2)=O)CC2=NN(C3=CC=CC=C23)C(=O)OC(C)(C)C)=O)CC(=O)N(C2=CC=C(C=C2)OC)C(C)C)C=C1F | C40H39F2N5O6
product | 2-[7,8-Difluoro-3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 430 mg | FC1=CC2=C(N(C(C(C(N2C2=CC=CC=C2)=O)CC2=NNC3=CC=CC=C23)=O)CC(=O)N(C2=CC=C(C=C2)OC)C(C)C)C=C1F | C35H31F2N5O4
